data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_30510_0,[C:1]([C:3](/[C:4](=[N:7]/[O:6][H:8])[H:9])=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:4]([H:9])[N:7]([O:6][H:8])[C:5]1([C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13],43.18831500000087
MR_669787_1,[C:1](/[C:3](=[C:2](/[N:4]([H:10])[H:11])[O:7][C:5](=[C:6]([H:16])[H:17])[H:12])[O:8][H:9])([H:13])([H:14])[H:15]>>[C:1]([C@@:3]([C:2]([N:4]([H:10])[H:11])=[O:7])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:8][H:9])([H:13])([H:14])[H:15],50.66246749999948
MR_458024_0,[N:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([N:4]=[O:5])[H:6]>>[N:1]([N:4][O:5][C:2](=[C:3]([H:8])[H:9])[H:7])[H:6],54.217255000013154
MR_97615_1,[C:1]([C:2]1=[C:3]([H:9])[C:5](/[C:4](=[N:6]/[H:8])[H:10])([H:11])[O:7]1)([H:12])([H:13])[H:14]>>[C:1]([C:2](/[C:3](=[C:5]([C:4](=[N:6]/[H:8])/[H:10])\[H:11])[H:9])=[O:7])([H:12])([H:13])[H:14],23.018582499988867
MR_76581_1,[C:1]([C:4]([C:5]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[C:7]([N:8][N:6]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:7]([H:11])[N:8]([N:6]([H:9])[H:10])[C:5]1([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])([H:12])([H:13])[H:14],40.18635499998254
MR_41720_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([C:5]([N:6]([H:11])[H:12])=[C:7]([H:19])[H:20])=[O:9])([O:8][C:2]([H:13])([H:14])[H:15])[H:10]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:4]([C:5]([N:6]([H:11])[H:12])=[C:7]([H:19])[H:20])([O:8][C:2]([H:13])([H:14])[H:15])[O:9]1,66.04751249999978
MR_251186_1,[C:1]1([H:9])([H:10])[N:4]([H:8])[C:6]([C:3]([H:14])([H:15])[H:16])=[C:5]([C:2]([H:11])([H:12])[H:13])[O:7]1>>[C:1]1([H:9])([H:10])[C:5]([C:2]([H:11])([H:12])[H:13])(/[C:6]([C:3]([H:14])([H:15])[H:16])=[N:4]/[H:8])[O:7]1,64.3080825000041
MR_223620_1,[C@@:1]([N:2]([H:9])[H:10])([O:5][H:7])(/[N:6]=[C:4](/[N:3]([H:11])[H:12])[H:13])[H:8]>>[C:1](\[N:2]([H:9])[H:10])(=[N:6]/[C@:4]([N:3]([H:11])[H:12])([O:5][H:7])[H:13])[H:8],37.660667499974494
MR_122871_1,[C:1]1([O:5][C:2]([H:7])([H:8])[H:9])([H:6])[O:3][O:4]1>>[C:1]([O:3][O:4][C:2]([H:7])([H:8])[H:9])(=[O:5])[H:6],63.53625749999097
MR_426181_0,[C:1]([N:2]([O:4][H:6])[H:8])([N:3]([H:10])[H:11])([O:5][H:7])[H:9]>>[C:1]([N:2]([O:5][H:7])[H:8])([N:3]([H:10])[H:11])([O:4][H:6])[H:9],61.762315000011085
MR_83578_0,[C:1](/[C:3](=[N:4]\[C:2](=[N:5]/[H:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([H:8])[N:4]=[C:2]([H:7])[N:5]1[H:6])([H:9])([H:10])[H:11],51.94946999999601
MR_307717_0,[C:1](/[N:8]=[C:3](/[C:2]([H:14])([H:15])[H:16])[C:6]([C:4]([N:5]([H:9])[H:10])=[O:7])([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1](/[N:8]=[C:3](/[C:2]([H:14])([H:15])[H:16])[O:7][C:4]([N:5]([H:9])[H:10])=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13],61.84514499998031
MR_30712_0,[N:1]([N:2]([H:7])[H:8])(/[C:4](=[C:5](\[N:3]([H:9])[H:10])[H:12])[H:11])[H:6]>>[N:1](\[N:2]([H:7])[H:8])=[C:4](/[C:5]([N:3]([H:9])[H:10])([H:6])[H:12])[H:11],69.79368749999395
MR_494791_1,[C:1]([C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([O:7][H:11])[N:8]([O:9][H:16])[H:12])([H:13])[H:14])(=[C:4]([H:15])[H:17])[O:6][H:10]>>[C:1]([C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([O:7][H:11])[N:8]=[O:9])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([O:6][H:10])[H:12],44.71188499997084
MR_610223_1,[C:1](/[C:3](=[C:2](/[O:7][H:10])[N:8][H:15])[N:5]([H:13])[H:14])([N:4]([H:11])[H:12])[O:6][H:9]>>[C@:1]1([N:4]([H:11])[H:12])([O:6][H:9])[C:3]([N:5]([H:13])[H:14])=[C:2]([O:7][H:10])[N:8]1[H:15],57.1840750000132
MR_214255_1,[C:1]([C:2]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:7])([H:13])[H:14])([N:4]([N:6]([H:9])[H:10])[H:8])([H:11])[H:12]>>[C:1]([C:2]([C:5]([C:3]([H:15])([H:16])[H:17])([O:7][H:9])[H:8])([H:13])[H:14])(/[N:4]=[N:6]/[H:10])([H:11])[H:12],50.48488499998413
MR_575575_1,[C:1]([C:3]([C:2]([N:4]([H:10])[H:11])=[O:9])[N:7][H:12])([N:6]=[C:5]([H:13])[H:14])=[O:8]>>[C:1]([C:2]([N:4]([H:10])[H:11])=[O:9])(/[C:3](=[N:6]/[C:5]([H:13])[H:14])[N:7][H:12])=[O:8],66.58277000000382
MR_396891_0,[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:7](=[C:5](/[C:3]([H:19])([H:20])[H:21])[C:4]([N:6]([H:12])[H:13])([N:9]([H:10])[H:14])[H:11])[H:15])=[O:8]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:7](=[C:5]([C:3]([H:19])([H:20])[H:21])\[C:4]([N:6]([H:12])[H:13])=[N:9]/[H:14])[H:15])([O:8][H:10])[H:11],41.09120999998083
MR_657906_1,[C:1]([C:5]([C:2]([H:19])([H:20])[H:21])=[C:3]([N:6]([H:10])[H:11])[N:9]=[C:4]([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:5]1([C:2]([H:19])([H:20])[H:21])[C:3]([N:6]([H:10])[H:11])=[N:9][C:4]1([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])([H:16])([H:17])[H:18],40.24596750001038
MR_169024_0,[C:1]([O:3][C:2]([O:4][H:8])=[O:7])([O:5][H:9])=[O:6]>>[C:1](=[O:3])([O:5][H:9])[O:6][C:2]([O:4][H:8])=[O:7],28.622785000000302
MR_682958_1,[C:1]([N:2](/[C:5](=[C:6](\[N:3]([H:12])[H:13])[H:16])[H:15])[H:10])([C:4](=[O:8])[H:14])([O:7][H:9])[H:11]>>[C:1]1([O:7][H:9])([H:11])[N:2]([H:10])[C:5]1([C:6]([N:3]([H:12])[H:13])([C:4](=[O:8])[H:14])[H:16])[H:15],71.69563999997166
